US07163954B2
A mixture of [1-bromo-6-(3-phenylacetyl-benzo[b]thiophen-2-yl)-naphthalen-2-yloxy]-acetic acid ethyl ester (0.427 g, 0.764 mmol) and potassium hydroxide (0.162 g 2.89 mmol) in THF (125 mL) and water (125 mL) was stirred at ambient temperature for two hours. It was then poured in excess water and acidified with 2N hydrochloric acid. This was then extracted with ethyl acetate and washed with water and brine. The organic phase was dried with anhydrous magnesium sulfate, filtered, solvent evaporated and purified by HPLC using 65% acetonitrile (0.1% trifluoroacetic acid) in water as the mobile phase. Evaporating the solvent and extracting with ethyl acetate, washing with water and brine, drying with anhydrous magnesium sulfate, filtering, concentrating and drying in vacuo at 60° C. for 25 minutes to yield [1-bromo-6-(3-phenylacetyl-benzo[b]thiophen-2-yl)-naphthalen-2-yloxy]-acetic acid as a yellow solid (0.100 g, 24.6%): MP: 170–2° C.; mass spectrum (+EI, [M+H]+) m/z 531/533. 1H NMR (500 MHz, DMSO-d6): δ13.0–13.3 (br, 1H), 8.27 (d, 1H, J=8.86 Hz), 8.16 (d, 1H, J=1.52 Hz), 8.06–8.12 (m, 2H), 7.89–7.92 (m, 1H), 7.81 (dd, 1H, J=8.86 Hz and 1.83 Hz), 7.44–7.52 (m, 3H), 7.13–7.19 (m, 3H), 6.92–6.94 (m, 2H), 5.02 (s, 2H), 3.81 ppm (s, 2H).

reactant | [1-bromo-6-(3-phenylacetyl-benzo[b]thiophen-2-yl)-naphthalen-2-yloxy]-acetic acid ethyl ester | 0.764 mmol, 0.427 g | C(C)OC(COC1=C(C2=CC=C(C=C2C=C1)C1=C(C2=C(S1)C=CC=C2)C(CC2=CC=CC=C2)=O)Br)=O | C30H23BrO4S
reactant | potassium hydroxide | 2.89 mmol, 0.162 g | [OH-].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 125 mL | C1CCOC1 | C4H8O
solvent | water | 125 mL | O | H2O
product | [1-bromo-6-(3-phenylacetyl-benzo[b]thiophen-2-yl)-naphthalen-2-yloxy]-acetic acid | 0.100 g, 24.6% | BrC1=C(C=CC2=CC(=CC=C12)C1=C(C2=C(S1)C=CC=C2)C(CC2=CC=CC=C2)=O)OCC(=O)O | C28H19BrO4S
